Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/p ERCP ampullectomy
 
Major Surgical or Invasive Procedure:
the acquisition and interpretation of the fluoroscopic images. 
The quality of the fluoroscopic images was good. 
 

Impression: •The ampullary mass was raised by submucosal 
injection with saline and methylene blue to create a saline 
pillow. 
•An endoscopic mucosal resection (EMR) was performed and the 
mass was completely removed in piecemeal piece using a hot 
snare. 
•The mass was retrieved using ___ net and sent for 
histopathology. 
•Cannulation of the pancreatic duct was performed using a 
free-hand technique. 
•The pancreatic duct was partially filled with contrast and 
visualized proximally. 
•A ___ X 6cm ___ pancreatic stent was successfully placed.
 

Recommendations: •Admit to hospital for monitoring 
•Clear fluids when awake then advance diet as tolerated. 
•Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days. 
•Repeat ERCP in 4 weeks for stent pull and re-evaluation.  
Second area in the duodenum that showed adenomatous can be 
inspected at the same time. 
•Follow up with cytology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results 
•Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
 

 
History of Present Illness:
___ y/o M w/ hx of diverticulitis, HLD, FAP (+genetic testing), 
found on EGD ___ to have adenomatous change at the ampulla, 
pathology showing Ampullary adenoma, admitted post-ERCP 
ampullectomy.

ERCP done today showed known mass that was then resected. Stent 
was placed in PD. Requires abx for 5 days and stent removal in 4 
weeks. 

Patient reports feeling well post-ERCP, without abdominal pain, 
nausea, fevers, diarrhea, constipation. He is hungry and feels 
confident he will be able to advance to a regular diet without 
difficulty. He has no other complaints currently.

Comprehensive 10-point review of systems is otherwise negative.
 
Past Medical History:
Genetic testing positive for FAP
Hyperlipidemia
Diverticulitis (x2 in ___
 
Social History:
___
Family History:
Father: Died age ___ from brain tumor
Mother: Alive, ___, COPD (non-smoker), MI in her late ___
Brothers: ___ cancer in older brother, other is healthy
Son: Healthy

 
Physical ___:
ADMISSION EXAM:
VS: T 98.3, BP 155/91, P 87, RR 18, O2 95% RA 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear
Lymph: no cervical lymphadenopathy
CV: No JVD present, regular rate and rhythm, no murmurs 
appreciated
Resp: CTA bilaterally in anterior and posterior lung fields, no 
increased work of breathing
GI: soft, non-tender, non-distended. No hepatosplenomegaly 
appreciated.
GU: No suprapubic tenderness
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4 
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate

discharge
avss
normotensive
well appearing not confused
regular pulse
not jaundiced
soft non tender non distended abdomen 
 
Pertinent Results:
LAB RESULTS:
CBC:
5.4 > 16.3/47.3 < 223 

___: 10.7  PTT: 32.4  INR: 1.0  

BMP:
136 | 102 | 23    
---------------<
4.1 | 22  | 0.9  

ALT: 31 AP: 66  
AST: 21
___: 133 Lip: 206   

IMAGING:
ERCP (___):
Impression: •The ampullary mass was raised by submucosal 
injection with saline and methylene blue to create a saline 
pillow. 
•An endoscopic mucosal resection (EMR) was performed and the 
mass was completely removed in piecemeal piece using a hot 
snare. 
•The mass was retrieved using ___ net and sent for 
histopathology. 
•Cannulation of the pancreatic duct was performed using a 
free-hand technique. 
•The pancreatic duct was partially filled with contrast and 
visualized proximally. 
•A ___ X 6cm ___ pancreatic stent was successfully placed.
 
Recommendations: •Admit to hospital for monitoring 
•Clear fluids when awake then advance diet as tolerated. 
•Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days. 
•Repeat ERCP in 4 weeks for stent pull and re-evaluation.  
Second area in the duodenum that showed adenomatous can be 
inspected at the same time. 
•Follow up with cytology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results 
•Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
 

 
Brief Hospital Course:
___ y/o M w/ hx of diverticulitis, HLD, FAP (+genetic testing), 
found on EGD ___ to have adenomatous change at the ampulla, 
pathology showing Ampullary adenoma, admitted post-ERCP 
ampullectomy.

# S/p ERCP ampullectomy:
- Cipro 500mg PO bid x 5 days
- Clears post procedure and tolerated regular die the day of 
discharge
- F/u pathology
- Return for PD stent pull and re-evaluation in 4 weeks
- F/u with outpatient providers

# HLD:
- Continue simvastatin 20mg qhs

# Primary prevention:
- Continue ASA 81mg qd

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ampullary polyp/adenoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for ampulectomy to treat a polyp on the 
ampulla

take antibiotics as prescribed

the gi team will have you return for stent pull in 4 weeks

they will contact you with results of polypectomy 
pathology/cytology 
 
Followup Instructions:
___